US07220862B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(2-methoxy-pyrimidin-5-ylmethyl)-2-oxo-ethyl]-amide
To a solution of 3-(2-methoxy-pyrimidin-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester (99 mg) in methanol (6 mL) was added a solution of lithium hydroxide monohydrate (18 mg) in water (1 mL). The reaction was stirred at room temperature for 4 h and cooled to 0° C. The reaction was treated with 1N hydrochloric acid (0.4 mL), concentrated. The residue obtained was dissolved in methylene chloride (3 mL), and treated sequentially with 4-piperidyl-piperidine (50 mg), triethylamine (88 μL), and bis-2-oxo-3-oxazolidinyl)phoshinic chloride (71 mg). The reaction was stirred overnight, concentrated, and purified by prep HPLC to give 103 mg (45%). LC/MS: tR=1.23 min, 605.54 (MH)+.

reactant | 3-(2-methoxy-pyrimidin-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | 99 mg | COC(C(CC=1C=NC(=NC1)OC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C23H28N6O5
reactant | lithium hydroxide monohydrate | 18 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 0.4 mL | Cl | ClH
reactant | 4-piperidyl-piperidine | 50 mg | N1CCC(CC1)N1CCCCC1 | C10H20N2
reactant | phoshinic chloride | 71 mg | [PH2](=O)Cl | ClH2OP
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 88 μL | C(C)N(CC)CC | C6H15N
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-[1,4′]bipiperidinyl-1′-yl-1-(2-methoxy-pyrimidin-5-ylmethyl)-2-oxo-ethyl]-amide | N1(CCCCC1)C1CCN(CC1)C(C(CC=1C=NC(=NC1)OC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C32H44N8O4
